US07579449B2
1-chloro-4-(β-D-glucopyranos-1-yl)-2-[4-(piperdin-4-yloxy)-benzyl]-benzene
2 ml trifluoroacetic acid are added to a solution of 0.19 g 1-chloro-4-(β-D-glucopyranos-1-yl)-2-[4-(1-tert-butlyoxycarbonylpiperidin-4-yloxy)-benzyl]-benzene in 4 ml dichloromethane. The solution is stirred for 1.5 h at ambient temperature and then diluted with ethyl acetate and made basic with aqueous potassium carbonate solution. The organic phase is separated off and the aqueous phase is extracted with ethyl acetate. The combined organic phases are dried over sodium sulphate and the solvent is eliminated entirely.

reactant | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 1-chloro-4-(β-D-glucopyranos-1-yl)-2-[4-(1-tert-butlyoxycarbonylpiperidin-4-yloxy)-benzyl]-benzene | 0.19 g | ClC1=C(C=C(C=C1)[C@]1(O)[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)CC1=CC=C(C=C1)OC1CCN(CC1)C(=O)OC(C)(C)C | C29H38ClNO9
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-chloro-4-(β-D-glucopyranos-1-yl)-2-[4-(piperdin-4-yloxy)-benzyl]-benzene | ClC1=C(C=C(C=C1)[C@]1(O)[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)CC1=CC=C(C=C1)OC1CCNCC1 | C24H30ClNO7
